USRE037556E1
In 25 ml of ethanol were suspended 0.5 g of 4-(4-hydroxyphenyl)-2-(3,4-dimethoxyphenyl)thiazole, 1 g of paraformaldehyde and 0.5 g of N-methylpiperazine. The suspension was refluxed for 8 hours with heating. The reaction mixture was subjected to distillation under reduced pressure to remove the solvent. The residue was purified by silica get column chromatography (eluent: dichloromethane/methanol=49/1 by v/v) and dissolved in 10 ml of ethanol. Thereto was added 0.5 ml of ethanol saturated with hydrogen chloride gas, and the mixture was allowed to stand. The resulting crystals were collected by filtration, dried and recrystallized from ethanol to obtain 0.2 g of 4-[4-hydroxy-3-(4-methyl-1-piperazinylmethyl)phenyl]-2-(3,4-dimethoxyphenyl)thiazole trihydrochloride.

reactant | 4-(4-hydroxyphenyl)-2-(3,4-dimethoxyphenyl)thiazole | 0.5 g | OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OC)OC | C17H15NO3S
reactant | paraformaldehyde | 1 g | C=O | CH2O
reactant | N-methylpiperazine | 0.5 g | CN1CCNCC1 | C5H12N2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 4-[4-hydroxy-3-(4-methyl-1-piperazinylmethyl)phenyl]-2-(3,4-dimethoxyphenyl)thiazole trihydrochloride | 0.2 g | Cl.Cl.Cl.OC1=C(C=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OC)OC)CN1CCN(CC1)C | InChI=1S/C23H27N3O3S.3ClH/c1-25-8-10-26(11-9-25)14-18-12-16(4-6-20(18)27)19-15-30-23(24-19)17-5-7-21(28-2)22(13-17)29-3;;;/h4-7,12-13,15,27H,8-11,14H2,1-3H3;3*1H
